US07101891B2
3-Azidomethyl-5-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1-carboxylic acid tert-butyl ester
Add NaN3 (0.33 g, 5.1 mmol) to a solution of 3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-5-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester (0.87 g, 1.7 mmol) in DMF (20 mL). Heat 24 H at 60° C., cool to 0° C. and quench with water. Concentrate to dryness. Partition between 20% iPrOH/CHCl3 and water. Extract 3×CHCl3. Wash the combined organics 2× with brine, dry over Na2SO4, filter and concentrate to dryness to afford the title compound (0.67 g, 84%) as a white foam as a mixture of cis isomers. MS(IS) 473.2 (M+); TLC (50% EtOAc/hexanes) Rf=0.8.

reactant | NaN3 | 5.1 mmol, 0.33 g | [N-]=[N+]=[N-].[Na+]
reactant | 3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-5-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 1.7 mmol, 0.87 g | C(C)(C)(C)OC(=O)N1CC(CC(C1)COS(=O)(=O)C)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | C23H28ClN3O7S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-Azidomethyl-5-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.67 g, 84% | C(C)(C)(C)OC(=O)N1CC(CC(C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)CN=[N+]=[N-] | C22H25ClN6O4
